US08222248B2
A mixture of benzyl 4-bromomethyl-3-nitrobenzoate (2.06 g, 5.88 mmol) and triphenylphosphine (1.54 g, 5.87 mmol) in DMF (10 mL) was heated at 100° C. for 1 h. To this solution was added methyl (E)-3-(4-formyl-3,5-dimethylphenyl)-acrylate (1.28 g., 5.86 mmol) and potassium carbonate (1.63 g, 11.8 mmol) and the mixture was heated and stirred at 100° C. for 18 h. The reaction was poured into ethyl acetate and extracted with water once and brine.five times. The organic layer was dried, filtered, and the solvent was removed under reduced pressure. The residue was purified by chromatography using a 0-40% gradient of heptane/ethyl acetate to give benzyl 4-{(E)-2-[4-((E)-2-methoxycarbonylvinyl)-2,6-dimethylphenyl]-vinyl}-3-nitrobenzoate.

reactant | benzyl 4-bromomethyl-3-nitrobenzoate | 5.88 mmol, 2.06 g | BrCC1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C15H12BrNO4
reactant | triphenylphosphine | 5.87 mmol, 1.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl (E)-3-(4-formyl-3,5-dimethylphenyl)-acrylate | 5.86 mmol, 1.28 g | C(=O)C1=C(C=C(C=C1C)/C=C/C(=O)OC)C | C13H14O3
reactant | potassium carbonate | 11.8 mmol, 1.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 4-{(E)-2-[4-((E)-2-methoxycarbonylvinyl)-2,6-dimethylphenyl]-vinyl}-3-nitrobenzoate | COC(=O)/C=C/C1=CC(=C(C(=C1)C)/C=C/C1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)[N+](=O)[O-])C | C28H25NO6
